US05238942
STEP 1: 6-Iodo-2-propyl-quinazolin-4(3H)-one
Following the procedure described as in the preparation of 6-nitro-2-propylquinazolin-4(1H)-one above. 25 g of 5-iodoanthranilic acid was converted into the title compound. 1H-NMR (CDCl3, 200 MHz): δ1.02 (t, 3H, J=7.4 Hz), 1.81 (m, 2H), 2.63 (t, 2H, J=7.4 Hz), 7.40 (d, 1H, J=8.6 Hz), 8.07 (dd, 1H, J=2, 8.7 Hz).1H, J=8.6 Hz), 8.07 (dd, 1H, J=2, 8.7 Hz).

reactant | 6-nitro-2-propylquinazolin-4(1H)-one | [N+](=O)([O-])C=1C=C2C(N=C(NC2=CC1)CCC)=O | C11H11N3O3
reactant | 5-iodoanthranilic acid | 25 g | IC1=CC=C(C(C(=O)O)=C1)N | C7H6INO2
product | 6-Iodo-2-propyl-quinazolin-4(3H)-one | IC=1C=C2C(NC(=NC2=CC1)CCC)=O | C11H11IN2O
